US08420812B2
3-Hept-1-ynyl-1-methyl-5-trifluoromethyl-1H-pyrazole
This product was prepared from toluene-4-sulfonic acid 1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl ester and 1-heptyne following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/DCM 7:3; yield (100 mg, 82%); 1H NMR δ (CDCl3): 6.63 (s, 1H), 3.95 (s, 3H), 2.38 (t, J=7.34 Hz, 2H), 1.64-1.56 (m, 2H), 1.46-1.28 (m, 4H), 0.90 (t, J=7.36 Hz, 3H); LCMS m/z: 244.

reactant | toluene-4-sulfonic acid 1-methyl-5-trifluoromethyl-1H-pyrazol-3-yl ester | CN1N=C(C=C1C(F)(F)F)OS(=O)(=O)C1=CC=C(C=C1)C | C12H11F3N2O3S
reactant | 1-heptyne | C#CCCCCC | C7H12
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 3-Hept-1-ynyl-1-methyl-5-trifluoromethyl-1H-pyrazole | C(#CCCCCC)C1=NN(C(=C1)C(F)(F)F)C | C12H15F3N2
